US05252601
Dissolve diethyl malonate (7.6 mL, 50 mmol) in anhydrous tetrahydrofuran (500 mL) and place under an argon atmosphere. Cool to 5° C., add sodium hydride (1.2 g, 50 mmol) and stir briefly until homogeneous. Add α,α'-dibromo-o-xylene (13.2 g, 50 mmol) and stir an additional 15 minutes. Add additional sodium hydride (1.2 g, 50 mmol) and stir for 16 hours while warming to room temperature. Filter, evaporate the solvent in vacuo and purify by silica gel chromatography (1:1 methylene chloride:hexane) to give 2,2-dicarbethoxy-indane (9.64 g, 74%).

reactant | diethyl malonate | 50 mmol, 7.6 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 50 mmol, 1.2 g | [H-].[Na+]
reactant | α,α'-dibromo-o-xylene | 50 mmol, 13.2 g | BrCC=1C(=CC=CC1)CBr | C8H8Br2
reactant | sodium hydride | 50 mmol, 1.2 g | [H-].[Na+]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | 2,2-dicarbethoxy-indane | 9.64 g, 74% | C(=O)(OCC)C1(CC2=CC=CC=C2C1)C(=O)OCC | C15H18O4
